US08026366B2
2-ethyl-7-[2-(1H-indol-3-yl)ethoxy]thiazolo[4,5-c]quinolin-4-amine
A scintillation vial was charged with 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol (1.0 eq., 1.0 mmol) and anhydrous DMF (2 mL). The mixture was warmed until a solution was obtained. An additional amount of DMF (1 mL) was added. To this stirred orange solution was added cesium carbonate (3.0 eq., 3.0 mmol) and a solution of 3-(2-bromoethyl)indole (1.0 eq., 1.0 mmol) dissolved in DMF (2 mL). Additional DMF (1 mL) was used to rinse the vial. The vial was capped and heated to 60° C. overnight. The reaction was monitored by HPLC. The reaction was quenched by adding the reaction mixture drop-wise to water (60 ml) with stirring. A precipitate formed. The solid was collected by vacuum filtration. The solid was then dissolved in methanol and adsorbed onto silica gel (6 g) for purification by HPFC (0-15% CMA in chloroform, 1440 mL). Pure fractions were combined and concentrated; the resulting solid was recrystallized from methanol to provide a peach colored crystalline solid, mp 218-220° C. MS (APCI) m/z 389 (M+H)+. Anal. calcd for C22H20N4OS.0.8 CH3OH: C, 66.13; H, 5.65; N, 13.53. Found: C, 66.43; H, 5.03; N, 13.90.

reactant | 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol | 1.0 mmol, 1.0 eq. | NC1=NC=2C=C(C=CC2C2=C1N=C(S2)CC)O | C12H11N3OS
reactant | cesium carbonate | 3.0 mmol, 3.0 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(2-bromoethyl)indole | 1.0 mmol, 1.0 eq. | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | CH3OH | CO | CH4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-ethyl-7-[2-(1H-indol-3-yl)ethoxy]thiazolo[4,5-c]quinolin-4-amine | C(C)C=1SC2=C(C(=NC=3C=C(C=CC23)OCCC2=CNC3=CC=CC=C23)N)N1 | C22H20N4OS
